### PR TITLE
[Merged by Bors] - feat: add 2-coloring of `pathGraph` and prove its chromatic number is 2

### PR DESCRIPTION
**Pull request by IvanRenison**
Define a bicoloring for `pathGraph` and prove that when `2 ≤ n` its chromatic number is 2. Creates a ConcreteColorings module to hold such colorings of concrete graphs.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/ConcreteColorings.lean [hunk 1]
```diff
@@ -0,0 +1,77 @@
...
+# Concrete colorings of common graphs
+
+This file defines colorings for some common graphs
+
+## Main declarations
+
+* `SimpleGraph.pathGraph.bicoloring`: Bicoloring of a path graph
+-/
+
+theorem suc_mod2_neq (m : ℕ) : (m % 2 == 0) ≠ ((m + 1) % 2 == 0) := by
```
Comment (kmill) [inline Mathlib/Combinatorics/SimpleGraph/ConcreteColorings.lean:20]: In mathlib we use `=` instead of `==` and rely on the `decide` insertion.

This lemma made me realize we're missing the following lemmas. Could you add them?
```lean
-- to Data.Nat.Parity
theorem succ_mod_two_eq_zero_iff {m : ℕ} : (m + 1) % 2 = 0 ↔ m % 2 = 1 := by
  simp [← Nat.even_iff, ← Nat.not_even_iff, parity_simps]

theorem succ_mod_two_eq_one_iff {m : ℕ} : (m + 1) % 2 = 1 ↔ m % 2 = 0 := by
  simp [← Nat.even_iff, ← Nat.not_even_iff, parity_simps]
```

Style comments: The theorem you wrote might be called something like `mod_two_beq_zero_neq_succ_mod_two_eq_zero` using the mathlib naming convention, possibly shortened. It's `succ` instead of `suc` and `mod_two` instead of `mod2`.

File: Mathlib/Combinatorics/SimpleGraph/ConcreteColorings.lean [hunk 2]
```diff
@@ -0,0 +1,77 @@
...
+      have : u ⋖ v ∨ v ⋖ u := by simp_all [pathGraph]
+      have : u.val ⋖ v.val ∨ v.val ⋖ u.val := by simp_all [Fin.coe_covby_iff]
+      have : u.val + 1 = v.val ∨ v.val + 1 = u.val := by simp_all [Nat.covby_iff_succ_eq]
+      match this with
+        | Or.inl h' =>
+          rw [←h']
+          exact suc_mod2_neq u
+        | Or.inr h' =>
+          rw [←h']
+          exact (suc_mod2_neq v).symm)
```
Comment (kmill) [inline Mathlib/Combinatorics/SimpleGraph/ConcreteColorings.lean:42]: Here's a shorter proof by using a lemma and some mathlib tactics. Could you add this lemma to right after `pathGraph`?
```suggestion
theorem pathGraph_adj {n : ℕ} {u v : Fin n} :
    (pathGraph n).Adj u v ↔ u.val + 1 = v.val ∨ v.val + 1 = u.val := by
  simp only [pathGraph, hasse]
  simp_rw [← Fin.coe_covby_iff, Nat.covby_iff_succ_eq]

/-- Bicoloring of a path graph -/
def pathGraph.bicoloring (n : ℕ) :
    Coloring (pathGraph n) Bool :=
  Coloring.mk (fun u ↦ u.val % 2 = 0) <| by
    intro u v
    rw [pathGraph_adj]
    rintro (h | h) <;> simp [← h, not_iff, succ_mod_two_eq_zero_iff]
```

Style comments:
- Do not have "non-terminal simps," which are simps that do not close a goal. That `simp` before the `have` is not allowed -- we use `simp?` to turn them into a `simp only`, which is allowed.
- We generally don't do `simp_all`. Usually there's something more precise.
- `match` is ok, but using `obtain` or `rintro` tends to be cleaner. Inside tactics, you'll often find `cases` instead of `match`, which has similar syntax.

File: Mathlib/Combinatorics/SimpleGraph/ConcreteColorings.lean [hunk 3]
```diff
@@ -0,0 +1,77 @@
...
+
+/-- Convert a coloring to bool to a coloring to Fin 2 -/
+def SimpleGraph.Coloring.BoolToFin2 {α} {G : SimpleGraph α} (c : SimpleGraph.Coloring G Bool) :
+    SimpleGraph.Coloring G (Fin 2) :=
+  (SimpleGraph.recolorOfEquiv G (finTwoEquiv)).invFun c
```
Comment (kmill) [inline Mathlib/Combinatorics/SimpleGraph/ConcreteColorings.lean:47]: This definition ends up being unnecessary. Lean can unfold things and see that `Fintype.card Bool = 2` without needing it to be `Fintype.card (Fin 2) = 2` (I guessing that's why you introduced this).

File: Mathlib/Combinatorics/SimpleGraph/ConcreteColorings.lean [hunk 4]
```diff
@@ -0,0 +1,77 @@
...
+    -- ↑x ⋖ ↑y ∨ ↑y ⋖ ↑x
+    have : (x : ℕ) = 0 ↔ (y : ℕ) = 1 := by aesop
+    have : (x : ℕ) = 1 ↔ (y : ℕ) = 0 := by aesop
+    have x_val : (x : ℕ) = 0 ∨ (x : ℕ) = 1 := by aesop
+    apply Or.elim x_val
+    repeat
+      intro _
+      simp_all [Fin.coe_covby_iff.symm, Nat.covby_iff_succ_eq.mpr rfl]
+  simp_all [Finset.mem_singleton, Fin.mk.injEq, Finset.coe_insert,
+            Finset.coe_singleton, Set.mem_singleton_iff]
```
Comment (kmill) [inline Mathlib/Combinatorics/SimpleGraph/ConcreteColorings.lean:66]: Rather than using cliques, I find working with graph embeddings to be preferable (maps are more fun than sets, right?) Here's the main content of this clique lemma, but it lets you avoid needing to construct this two-element finset, and `⊤` (the complete graph) is what a clique is modeling.
```lean
def pathGraph_two_embedding (n : ℕ) (h : 2 ≤ n) : pathGraph 2 ↪g pathGraph n where
  toFun v := ⟨v, trans v.2 h⟩
  inj' := by
    rintro v w
    rw [Fin.mk.injEq]
    exact Fin.ext
  map_rel_iff' := by
    intro v w
    fin_cases v <;> fin_cases w <;> simp [pathGraph, ← Fin.coe_covby_iff]

-- move to right after `pathGraph`
theorem pathGraph_two_eq_top : pathGraph 2 = ⊤ := by
  ext u v
  fin_cases u <;> fin_cases v <;> simp [pathGraph, ← Fin.coe_covby_iff, Nat.covby_iff_succ_eq]
```
Style comments: Note the non-terminal simp. Also note that `simp_all` obscures that `hs` is essential to closing the goal. In this case I believe you can use `simpa using hs`, which is a way to do `simp` on `hs` and the goal simultaneously, and then it does `exact` for you with the simplified `hs`.

File: Mathlib/Combinatorics/SimpleGraph/ConcreteColorings.lean [hunk 5]
```diff
@@ -0,0 +1,77 @@
...
+theorem SimpleGraph.pathGraph.chromaticNumber (n : ℕ) (h : n > 1) :
+    (pathGraph n).chromaticNumber = 2 := by
+  refine Nat.le_antisymm_iff.mpr ?_
+  apply And.intro
+  · apply SimpleGraph.chromaticNumber_le_of_colorable
+    exact Nonempty.intro (SimpleGraph.pathGraph.bicoloring n).BoolToFin2
+  · let s : Finset (Fin n) := {⟨0, Nat.zero_lt_of_lt h⟩, ⟨1, h⟩}
+    have hs : SimpleGraph.IsClique (pathGraph n) s := by
+      simp [(SimpleGraph.pathGraph.clique n)]
+    apply SimpleGraph.IsClique.card_le_chromaticNumber hs
```
Comment (kmill) [inline Mathlib/Combinatorics/SimpleGraph/ConcreteColorings.lean:77]: With those changes, now you can assemble them pretty quickly:
```suggestion
theorem chromaticNumber_pathGraph (n : ℕ) (h : 2 ≤ n) :
    (pathGraph n).chromaticNumber = 2 := by
  have hc := (pathGraph.bicoloring n).to_colorable
  apply le_antisymm
  · exact chromaticNumber_le_of_colorable hc
  · simpa only [pathGraph_two_eq_top, chromaticNumber_top] using
      hc.chromaticNumber_mono_of_embedding (pathGraph_two_embedding n h)
```
Style comments: Instead of your `refine` line, `apply le_antisymm` is better since it creates two goals all at once, and it works for partial orders in general. Notice that instead of `Nonempty.intro` I used the `to_colorable` method, which is definitionally the same but syntactically produces a `Colorable` term. I'm not sure how much it matters these days, but we use `1 < n` instead of `n > 1` because the latter is the first only after unfolding -- at the least preferring `<` leads to more consistency.

**Review by kmill — COMMENTED** [review]
Thanks for contributing this proof of the chromatic number of the path graph!

One thing to be sure to do is wrap everything after the module docstring in `namespace SimpleGraph ... end SimpleGraph`. That way you don't need to put `SimpleGraph.` everywhere.

I've also suggested changes to the organization of the proof. It's morally the same as your clique argument, but it goes through showing that there's an embedding of a two-vertex complete graph, which I believe is easier than working with cliques directly. My feeling is that cliques are better when you're in the clique-counting business.

(Note: I edited the PR title and description.)

File: Mathlib/Data/Nat/Parity.lean [hunk 6]
```diff
@@ -236,6 +236,12 @@ theorem one_add_div_two_mul_two_of_odd (h : Odd n) : 1 + n / 2 * 2 = n := by
   rw [← odd_iff.mp h, mod_add_div']
 #align nat.one_add_div_two_mul_two_of_odd Nat.one_add_div_two_mul_two_of_odd
 
+theorem succ_mod_two_eq_zero_iff {m : ℕ} : (m + 1) % 2 = 0 ↔ m % 2 = 1 := by
+  simp [← Nat.even_iff, ← Nat.not_even_iff, parity_simps]
+
+theorem succ_mod_two_eq_one_iff {m : ℕ} : (m + 1) % 2 = 1 ↔ m % 2 = 0 := by
+  simp [← Nat.even_iff, ← Nat.not_even_iff, parity_simps]
+
```
Comment (kmill) [inline Mathlib/Data/Nat/Parity.lean:244]: Let's move these to right after `even_add_one`, which is the earliest they can go.

**Comment by kmill** [comment]
Great, thanks! Looking forward to your future contributions.

bors r+
